US05965745
4-[1-(benzhydryl-carbamoyl)-5-(cyclopentyloxycarbonyl)amino-1H-indol-3-ylmethyl]-3-methoxy-N-o-tolylsulfonylbenzamide (Formula II: R3 =H; R4 =CH(C8H5)2)
To a solution of 4-[1-(benzhydryl-carbamoyl)-5-(cyclopentyloxycarbonyl)amino-1H-indol-3-ylmethyl]-3-methoxy-benzoic acid (0.50 grams, 0.81 mmol), 4-dimethylaminopyridine (0.015 grams, 1.21 mmol) and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (EDC) (0.23 g, 1.21 mmol) in methylene chloride (30 mL) was added o-tolylsulfonamide (0.14 g, 0.81 mmol). The resulting solution was stirred for 12 hours at room temperature. The solution was diluted with methylene chloride and washed with 1 M hydrochloric acid (aq). The organics were dried over magnesium sulfate and concentrated. Chromatography on silica gel (2% methanol/methylene chloride), followed by recrystallization from wet ether gave the titled compound (0.455 grams, 73% yield). m.p.=253-254° C. Anal. calcd. for C44H42N4O7S: C, 68.55; H, 5.49; N, 7.27. Found: C, 69.21; H, 5.54; N, 7.14. HRMS calcd. for C44H42N4O7S: 770.2774. Found 770.2736.

reactant | 4-[1-(benzhydryl-carbamoyl)-5-(cyclopentyloxycarbonyl)amino-1H-indol-3-ylmethyl]-3-methoxy-benzoic acid | 0.81 mmol, 0.50 grams | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(=O)N1C=C(C2=CC(=CC=C12)NC(=O)OC1CCCC1)CC1=C(C=C(C(=O)O)C=C1)OC | C37H35N3O6
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 1.21 mmol, 0.23 g | Cl.CN(CCCN=C=NCC)C
reactant | o-tolylsulfonamide | 0.81 mmol, 0.14 g | C1(=C(C=CC=C1)S(=O)(=O)N)C | C7H9NO2S
catalyst | 4-dimethylaminopyridine | 1.21 mmol, 0.015 grams | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-[1-(benzhydryl-carbamoyl)-5-(cyclopentyloxycarbonyl)amino-1H-indol-3-ylmethyl]-3-methoxy-N-o-tolylsulfonylbenzamide | 0.455 grams, 73% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(=O)N1C=C(C2=CC(=CC=C12)NC(=O)OC1CCCC1)CC1=C(C=C(C(=O)NS(=O)(=O)C2=C(C=CC=C2)C)C=C1)OC | C44H42N4O7S
